US07893056B2
N,N-Dimethyl-1-[(2S)-1-(phenylmethyl)-2-piperidinyl]methanamine (590 mg, 2.539 mmol) was dissolved in a mixture of MeOH (20 mL) and 1N HCl (5.5 mL, 5.5 mmol), degassed and placed under argon. 10% Pd/C (117 mg) was added, and the contents were thoroughly degassed and placed under a hydrogen balloon for 2 h. The contents were then degassed, and the Pd/C was removed by filtration through a fiberglass filter, washing with MeOH. The filtrate was concentrated in vacuo to provide pure N,N-dimethyl-1-[(2S)-2-piperidinyl]methanamine hydrochloride (425 mg, 78%). LCMS: (M+H)+: not detected.

reactant | N,N-Dimethyl-1-[(2S)-1-(phenylmethyl)-2-piperidinyl]methanamine | 2.539 mmol, 590 mg | CN(C[C@H]1N(CCCC1)CC1=CC=CC=C1)C | C15H24N2
reactant | HCl | 5.5 mmol, 1N, 5.5 mL | Cl | ClH
solvent | MeOH | 20 mL | CO | CH4O
product | N,N-dimethyl-1-[(2S)-2-piperidinyl]methanamine hydrochloride | 425 mg, 78% | Cl.CN(C[C@H]1NCCCC1)C | InChI=1S/C8H18N2.ClH/c1-10(2)7-8-5-3-4-6-9-8;/h8-9H,3-7H2,1-2H3;1H/t8-;/m0./s1
